US03975524
1-(1-Oxido-thiomorpholino)-3-piperazino-5-chloro-isoquinoline was prepared analogous to Example 12 from 1-thiomorpholino-3-piperazino-5-chloro-isoquinoline in dilute sulfuric acid by oxidation with hydrogen peroxide. M.p. 215°-217°C (from n-propanol); yield: 31% of theory.

reactant | 1-thiomorpholino-3-piperazino-5-chloro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)Cl)N1CCNCC1 | C17H21ClN4S
reactant | hydrogen peroxide | OO | H2O2
reactant | n-propanol | C(CC)O | C3H8O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(1-Oxido-thiomorpholino)-3-piperazino-5-chloro-isoquinoline | yield: 31% | O=S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)Cl)N1CCNCC1 | C17H21ClN4OS
